US07550481B2
Intermediate XXII: (2S,3R)-3-azido-4-ethoxy-1-phenylbutan-2-amine
Epoxide Opening In a flask charged with NaH (60% dispersion, 0.26 g, 34.1 mmol) in EtOH at 0° C. was added tert-Butyl[(1S)-1-oxiran-2-yl-2-phenylethyl]carbamate (3.0 g, 11.3 mmol) and the reaction allowed to warm to rt and stir overnight. Aqueous NH4Cl (3-5 mL) was added slowly, the reaction stirred for 30 min. and then concentrated to dryness. The crude product was partitioned between EtOAc and water. The organic layer was isolated and washed with brine and dried over Na2SO4. Upon solvent removal further drying in vacuo 3.4 g of alcohol tert-butyl [(1S,2S)-1-benzyl-3-ethoxy-2-hydroxypropyl]carbamate was isolated: 1H NMR (400 MHz, CDCl3) δ 7.28 (m, 5H), 4.70 (d, J=8.0 Hz, 1H), 3.89 (m, 1H), 3.71 (m, 1H), 3.51 (m, 3H), 2.89 (d, J=6.0 Hz, 2H), 1.35 (s, 9H), 1.20 (t, J=7.2 Hz, 3H); ES MS (M+H)=310.3. Step B: Mesylate Formation To a 10 mL flask containing a CH2Cl2 (60 mL) solution of tert-butyl [(1S,2S)-1-benzyl-3-ethoxy-2-hydroxypropyl]carbamate (3.0 g, 9.7 mmol) and mesyl chloride (0.75 mL, 9.7 mmol) was added TEA (1.48 mL, 10.6 mmol) dropwise at rt. The resulting mixture was stirred for 30 min. and then poured onto water. The organic phase was separated and washed again with water followed by brine and concentrated to give 4.0 grams crude (1S,2S)-2-[(tert-butoxycarbonyl)aamino]-1-(ethoxymethyl)-3-phenylpropyl methanesulfonate as a white solid which was used directly without further purification: ES MS (M+H)=388.0. Step C: Azide Displacement Crude mesylate (4.0 g, 10.3 mmol) from above and NaN3 (0.87 g, 13.4 mmol) were dissolved in DMF (15 mL) and the mixture heated at 90° C. for 48 h. The reaction was cooled to rt, quenched with aq. NH4Cl and extracted repeatedly with EtOAc (3×100 mL). The combined layers were washed with aq. LiCl (2×80 mL), followed by brine and dried over Na2SO4. Upon solvent evaporation 3.3 g of an orange oil was obtained containing tert-butyl [(1S,2R)-2-azido-1-benzyl-3-ethoxypropyl]carbamate: ES MS (M+H−tBu)=235.2. Step D: Boc Deprotection Crude azide (3.3 g, 9.8 mmol) was dissolved in dioxane (40 mL) and treated with HCl (4.0 N dioxane, 12 mL, 49 mmol). After stirring overnight the mixture was concentrated to dryness. The crude was re-dissolved in CH2Cl2 and extracted with 1N HCl (3×100 mL). The combined aqueous layers were treated with 3 M KOH till pH 9.0 and then extracted once again with EtOAc (3×100 mL). The combined organic layers were washed with brine and dried over Na2SO4 to give after solvent evaporation 0.8 g of Intermediate XXII as free base: 1H NMR (400 MHz, CDCl3) δ 7.28 (m, 5H), 3.67 (d, J=6.4 Hz, 2H), 3.50 (m, 3H), 3.07 (m, 1H), 2.72 (ABq, JAB=13.5 Hz, JAX=6.4 Hz, JBX=8.0 Hz, 2H), 1.45 (br s, 2H), 1.19 (t, J=6.8 Hz, 3H); ES MS (M+H)=236.2.

reactant | Azide | [N-]=[N+]=[N-]
reactant | mesylate | 10.3 mmol, 4.0 g | S(C)(=O)(=O)[O-]
reactant | NaN3 | 13.4 mmol, 0.87 g | [N-]=[N+]=[N-].[Na+]
reactant | tert-butyl [(1S,2R)-2-azido-1-benzyl-3-ethoxypropyl]carbamate | N(=[N+]=[N-])[C@H]([C@H](CC1=CC=CC=C1)NC(OC(C)(C)C)=O)COCC | C17H26N4O3
reactant | H−tBu | C(C)(C)C | C4H10
reactant | azide | 9.8 mmol, 3.3 g | [N-]=[N+]=[N-]
reactant | HCl | 49 mmol, 4.0 N, 12 mL | Cl | ClH
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | (2S,3R)-3-azido-4-ethoxy-1-phenylbutan-2-amine | N(=[N+]=[N-])[C@H]([C@H](CC1=CC=CC=C1)N)COCC | C12H18N4O
